US04036979
Following the procedure described in Example 6, N,O-dimethyl hydroxylamine hydrochloride and 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate are allowed to react to give 1-methoxy-1-methyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea, which is crystallized from acetone-hexane-ether to give product melting at 60° C. to 62.5° C.

reactant | N,O-dimethyl hydroxylamine hydrochloride | Cl.CNOC
reactant | 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate | S1C2=C(C=C1)C(CCC2)N=C=O | C9H9NOS
product | 1-methoxy-1-methyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | CON(C(=O)NC1CCCC=2SC=CC21)C | C11H16N2O2S
